US09376418B2
For a literature procedure to carry out a selective mono-lithiation of 2,5-dibromopyridine, see: Wang, X.; Rabbat, P.; O'Shea, P.; Tillyer, R.; Grabowski, E. J. J.; Reider, P. J. Tetrahedron Lett. 2000, 41, 4335-4338. n-BuLi (3.17 mL, 5.07 mmol) was added to 2,5-dibromopyridine (1.00 g, 4.22 mmol) in toluene (49.7 mL) at −78° C. and stirred for 2 hours at −78° C. 1-{[tert-Butyl(dimethyl)silyl]oxy}propan-2-one (1.22 mL, 6.33 mmol) was added dropwise to the reaction mixture over 15 minutes. Upon addition, the reaction mixture was warmed to room temperature overnight. The reaction mixture was quenched with a saturated aqueous NH4Cl (2.00 mL) and the solvent was removed under reduced pressure. The resultant residue was diluted with dichloromethane (20.0 mL) and was partitioned with a saturated aqueous solution of NH4Cl (20.0 mL). The organic layer was dried over sodium sulfate, concentrated under reduced pressure and purified by silica gel chromatography (ethyl acetate/hexanes) to yield 2-(5-bromopyridin-2-yl)-1-{[tert-butyl(dimethyl)silyl]oxy}propan-2-ol. MS APCI calc'd for C14H25BrNO2Si [M+H]+ 346. found 346 and 348.

reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | n-BuLi | 5.07 mmol, 3.17 mL | [Li]CCCC
reactant | 2,5-dibromopyridine | 4.22 mmol, 1.00 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 1-{[tert-Butyl(dimethyl)silyl]oxy}propan-2-one | 6.33 mmol, 1.22 mL | [Si](C)(C)(C(C)(C)C)OCC(C)=O | C9H20O2Si
solvent | toluene | 49.7 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(5-bromopyridin-2-yl)-1-{[tert-butyl(dimethyl)silyl]oxy}propan-2-ol | BrC=1C=CC(=NC1)C(CO[Si](C)(C)C(C)(C)C)(C)O | C14H24BrNO2Si
